US09227970B2
2-Methyl-4-(pyrrolidine-4-carbonyl)-2H-pyrazole-3-carboxylic acid (2-diethylamino-[1,2,4]triazolo [1,5-a]pyridin-6-yl)-amide
Using pyrrolidine and 5-(2-diethylamino-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid, the title compound was prepared in the same manner as described for example 2. White solid (60 mg, 75%). MS: m/z=411 (M+H+).

reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 5-(2-diethylamino-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid | C(C)N(C1=NN2C(C=CC(=C2)NC(=O)C2=C(C=NN2C)C(=O)O)=N1)CC | C16H19N7O3
product | 2-Methyl-4-(pyrrolidine-4-carbonyl)-2H-pyrazole-3-carboxylic acid (2-diethylamino-[1,2,4]triazolo [1,5-a]pyridin-6-yl)-amide | C(C)N(C1=NN2C(C=CC(=C2)NC(=O)C=2N(N=CC2C(=O)C2CCNC2)C)=N1)CC | C20H26N8O2
